US07399778B2
To {2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}amine (0.500 g, 1.74 mmol) in CH2Cl2 (15 mL) was added triethylamine (0.29 mL, 2.1 mmol) and 5-chlorothiophene-2-sulfonyl chloride (0.450 g, 2.09 mmol). After 2 days the reaction mixture was diluted with EtOAc (30 mL), washed with 1 N HCl (30 mL), dried (Na2SO4) and concentrated. Column chromatography (EtOAc/hexane, 3:7, then 1:1) provided 5-chloro-N-{2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide (0.415 g, 51%) as an oil.

reactant | {2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}amine | 1.74 mmol, 0.500 g | C(C)C(C(C1=CC=NN1CC1=CC=C(C=C1)OC)N)CC | C17H25N3O
reactant | triethylamine | 2.1 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chlorothiophene-2-sulfonyl chloride | 2.09 mmol, 0.450 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 5-chloro-N-{2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butyl}thiophene-2-sulfonamide | 0.415 g, 51% | ClC1=CC=C(S1)S(=O)(=O)NC(C(CC)CC)C1=CC=NN1CC1=CC=C(C=C1)OC | C21H26ClN3O3S2
